US06180287B2
To ethylene glycol monomethyl ether (86.4 g, 2.27 moles), ground caustic soda (16.7 g, 0.83 moles) was added by several portions and caustic soda was dissolved by heating to 80° C. Ethylene glycol glycidyl methyl ether (50 g, 0.76 moles) was then added dropwise. After the completion of the dropwise addition, the solution was stirred for 2 hours and then air-cooled at room temperature. The solution was neutralized with hydrochloric acid and a salt was deposited by adding acetone, followed by filtration. Low-boiling materials were removed under reduced pressure to obtain 67 g (yield 85%) of 1,3-bis(2-methoxyethoxy)-2-propanol.

reactant | ethylene glycol monomethyl ether | 2.27 moles, 86.4 g | COCCO | C3H8O2
reactant | caustic soda | 0.83 moles, 16.7 g | [OH-].[Na+]
reactant | Ethylene glycol glycidyl methyl ether | 0.76 moles, 50 g | COCCOCC1CO1 | C6H12O3
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | 1,3-bis(2-methoxyethoxy)-2-propanol | 67 g, yield 85% | COCCOCC(COCCOC)O | C9H20O5
